US06949648B2
4-Chloro-3-methyl-1-(2-pyridinylmethyl)-1H-pyrazolo[3,4-b]quinoline
Following the procedures described in Reference Example 1-10 and Example 1-34, the title compound was prepared from 2-(2-oxopropyl)-4H-3,1-benzoxazin-4-one and 2-hydrazinomethylpyridine which was separately prepared from 2-chloromethylpyridine following the method described in Reference Example 1-9 (75% yield).

reactant | 2-(2-oxopropyl)-4H-3,1-benzoxazin-4-one | O=C(CC1=NC2=C(C(O1)=O)C=CC=C2)C | C11H9NO3
reactant | 2-hydrazinomethylpyridine | N(N)CC1=NC=CC=C1 | C6H9N3
reactant | 2-chloromethylpyridine | ClCC1=NC=CC=C1 | C6H6ClN
product | 4-Chloro-3-methyl-1-(2-pyridinylmethyl)-1H-pyrazolo[3,4-b]quinoline | ClC1=C2C(=NC3=CC=CC=C13)N(N=C2C)CC2=NC=CC=C2 | C17H13ClN4
